US04232032
A solution of sodium nitrite (1.96 g.) in water (30 ml.) was added to a stirred suspension of 6-amino-2,4-bis(trichloromethyl)benzo[1,3]dioxin (10 g.) in a mixture of hydrochloric acid (40 ml.) and water (180 ml.), cooled to 0°-5° C. The suspension was stirred for 1 hour at 0°-5° C., the mixture was filtered, and the solid product was washed with water, dried and crystallised from water to give 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-diazonium chloride, m.p. 140°-142° C.

reactant | sodium nitrite | 1.96 g | N(=O)[O-].[Na+]
reactant | 6-amino-2,4-bis(trichloromethyl)benzo[1,3]dioxin | 10 g | NC=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1 | C10H7Cl6NO2
solvent | water | 30 ml | O | H2O
solvent | hydrochloric acid | 40 ml | Cl | ClH
solvent | water | 180 ml | O | H2O
product | 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-diazonium chloride | [Cl-].ClC(C1OC2=C(C(O1)C(Cl)(Cl)Cl)C=C(C=C2)[N+]#N)(Cl)Cl | InChI=1S/C10H5Cl6N2O2.ClH/c11-9(12,13)7-5-3-4(18-17)1-2-6(5)19-8(20-7)10(14,15)16;/h1-3,7-8H;1H/q+1;/p-1
